US07737176B2
Step d): ethyl 6-(2-isobutoxy-5-methoxyphenyl)-6-oxo-3-methylhexa-2,4-dienoate
3 g (8.4 mmol) of ethyl [2-(2-isobutoxy-5-methoxyphenyl)-2-oxoethyl]-phosphonate dissolved in 20 ml of tetrahydrofuran are added dropwise to a suspension of 1.41 g (12.6 mmol) of potassium tert-butoxide in 30 ml of tetrahydrofuran, heated to 50° C. Heating is continued for 20 minutes at 50° C., the mixture is then cooled to 0° C. and 1.8 g (12.6 mmol) of ethyl 3-methyl-4-oxocrotonate dissolved in 20 ml of tetrahydrofuran are added dropwise. The reaction mixture is then stirred for 72 hours at 25° C. Water is added and the resulting mixture is extracted with ether. After drying (Na2SO4), the solvent is evaporated off and the residue is purified by flash chromatography (dichloromethane) (2.58 g of yellow oil; 89%).

reactant | ethyl [2-(2-isobutoxy-5-methoxyphenyl)-2-oxoethyl]-phosphonate | 8.4 mmol, 3 g | C(C(C)C)OC1=C(C=C(C=C1)OC)C(CP(OCC)([O-])=O)=O
reactant | potassium tert-butoxide | 12.6 mmol, 1.41 g | CC(C)([O-])C.[K+]
reactant | ethyl 3-methyl-4-oxocrotonate | 12.6 mmol, 1.8 g | C\C(=C/C(=O)OCC)\C=O | C7H10O3
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 6-(2-isobutoxy-5-methoxyphenyl)-6-oxo-3-methylhexa-2,4-dienoate | C(C(C)C)OC1=C(C=C(C=C1)OC)C(C=CC(=CC(=O)OCC)C)=O | C20H26O5
